US07750154B2
Using an analogous procedure to that described paragraph (3) in the portion of Example 1 which is concerned with the preparation of starting materials, N-isopropylpiperazine was reacted with 5-chloro-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-2-nitrobenzamide to give N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-(4-isopropylpiperazine-1-yl)-2-nitrobenzamide; NMR Spectrum: (DMSOd6) 0.57 (m, 2H), 0.67 (m, 2H), 0.99 (d, 6H), 2.29 (s, 3H), 2.54 (m, 4H), 2.68 (m, 1H), 2.83 (m, 1H), 3.48 (m, 4H), 7.05 (m, 2H), 7.27 (d, 1H), 7.56 (d, 1H), 7.96 (s, 1H), 8.03 (d, 1H), 8.35 (d, 1H), 9.90 (s, 1H); Mass Spectrum M+H+ 466.

reactant | N-isopropylpiperazine | C(C)(C)N1CCNCC1 | C7H16N2
reactant | 5-chloro-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-2-nitrobenzamide | ClC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(=O)NC2CC2)C)C1)[N+](=O)[O-] | C18H16ClN3O4
product | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-(4-isopropylpiperazine-1-yl)-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)N1CCN(CC1)C(C)C)[N+](=O)[O-])=O)C | C25H31N5O4
